US06514977B1
Step 3: Preparation of 1-[[5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]methyl]-4-methylpiperazine
To a suspension of 1,1-dimethylethyl 4-[[5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]carbonyl]-1-piperazinecarboxylate (0.451 g, 1.0 mL) in dry tetrahydrofuran (8 mL), 1.0N LiAlH4 in tetrahydrofuran (2.5 mL, 2.5 mmol) was added dropwise at such a rate as to maintain reflux over 15 minutes. Upon the addition, the suspension became a clear light yellow solution, which was kept boiling for an additional 1.5 hours. Excess LiAlH4 was decomposed by cautious addition of a solution of KOH (0.5611 g, 10.0 mmol) in water (3.5 mL). Upon hydrolysis, a white salt precipitated. After the addition was completed, the mixture was heated to reflux for 1 hour. The hot solution was filtered by suction through a buchner funnel. Any remaining product was extracted from the precipitate by refluxing with tetrahydrofuran (10 mL) for 1 hour, followed again by suction filtration. The combined filtrates were concentrated under reduced pressure to give a crude residue, which was then diluted with ethyl acetate and washed with water and brine. The organic layer was dried over MgSO4. After filtration, the solvent was removed under reduced pressure, and a crude product was obtained. The desired product 1-[[5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]methyl]-4-methylpiperazine (0.1509 g, 50.1%) was obtained by chromatography (silica gel, 70:30:1 methanol/ethyl acetate/NH4OH). Anal. Calc'd for C20H22N5F.0.6H2O: C, 66.32; H, 6.46; N, 19.33; Found: C, 66.31; H, 5.96; N, 18.83. MS (MH+): 352 (base peak).

reactant | 1,1-dimethylethyl 4-[[5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]carbonyl]-1-piperazinecarboxylate | 1.0 mL, 0.451 g | FC1=CC=C(C=C1)C1=C(C(=NN1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C24H26FN5O3
reactant | KOH | 10.0 mmol, 0.5611 g | [OH-].[K+]
reactant | methanol ethyl acetate NH4OH | CO.C(C)(=O)OCC.[NH4+].[OH-]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | LiAlH4 | 1.0N | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | water | 3.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.5 mmol, 2.5 mL | O1CCCC1 | C4H8O
product | 1-[[5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]methyl]-4-methylpiperazine | 0.1509 g, 50.1% | FC1=CC=C(C=C1)C1=C(C(=NN1)CN1CCN(CC1)C)C1=CC=NC=C1 | C20H22FN5
